US04755212
Preparation of 5-methyl-N-(2,6-dichlorophenyl)-4,5,6,7-tetrahydro-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide
Sodium borohydride (0.6 g, 16 mmol) was added to a solution of 3.0 g (8.3 mmol) of 5-methyl-N-(2,6-dichlorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide in 25 ml of dry DMSO. An exothermic reaction occured and 2.0 ml (31 mmol) of methane sulfonic acid in 5 ml of DMSO was added at a rate to maintain the temperature of the reaction mixture at 60° C. After the addition was complete the reaction mixture was stirred for 10 minutes and carefully quenched with 0.5N aqueous NaOH. The clear yellow solution was filtered, and the filtrate was acidified with 3N aqueous HCl. The resulting precipitate was treated with dilute aqueous NaOH and filtered to remove insoluble material. The filtrate was acidified with aqueous HCl to precipitate a solid. The solid was collected by filtration and dried to yield 1.11 g (37%) of the desired product as a solid, m.p. 230°-235° C. IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | Sodium borohydride | 16 mmol, 0.6 g | [BH4-].[Na+]
reactant | 5-methyl-N-(2,6-dichlorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 8.3 mmol, 3.0 g | CC1=NC=2N(C=C1)N=C(N2)S(=O)(=O)NC2=C(C=CC=C2Cl)Cl | C12H9Cl2N5O2S
reactant | methane sulfonic acid | 31 mmol, 2.0 ml | CS(=O)(=O)O | CH4O3S
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 5-methyl-N-(2,6-dichlorophenyl)-4,5,6,7-tetrahydro-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 1.11 g, 37% | CC1NC=2N(CC1)N=C(N2)S(=O)(=O)NC2=C(C=CC=C2Cl)Cl | C12H13Cl2N5O2S
